### PR TITLE
chore: bump to v4.24.0

### PR DESCRIPTION
**Pull request by dwrensha**
* The definition of `ModularForm` was generalized: https://github.com/leanprover-community/mathlib4/pull/26651
* `Summable` has a `SummationFilter` parameter now: https://github.com/leanprover-community/mathlib4/pull/29914
* `f` parameter of `tprod_pnat_eq_tprod_succ` is now implicit: https://github.com/leanprover-community/mathlib4/pull/27841
* various lemmas were deprecated
* A lemma named `Filter.map_add_atTop_eq` was added to mathlib: https://github.com/leanprover-community/mathlib4/pull/29532
* other changes too...

### CODE REVIEW

File: SpherePacking/ModularForms/qExpansion_lems.lean [hunk 1]
```diff
@@ -449,8 +447,9 @@ lemma iteratedDeriv_const_eq_zero (m : ℕ) (hm : 0 < m) (c : ℂ) :
 
 lemma qExpansion_pow (f : ModularForm Γ(1) k) (n : ℕ) :
   qExpansion 1 ((((DirectSum.of (ModularForm Γ(1)) k ) f) ^ n) (n * k)) = (qExpansion 1 f) ^ n := by
-  induction' n with n hn
-  · simp
+  induction n with --n hn
```
Comment (b-mehta) [inline SpherePacking/ModularForms/qExpansion_lems.lean]:
```suggestion
  induction n with
```

File: SpherePacking/ForMathlib/Cusps.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+    ((Matrix.SpecialLinearGroup.map (Int.castRingHom ℝ)) A) =
+      (Matrix.SpecialLinearGroup.mapGL ℝ) A := rfl
+  simp [this, hA]
+
+-- TODO: if this theorem is actually true with no additional hypotheses, then
+-- we don't need the above theorem, as it would be a special case.
+theorem smul_infty_eq_cusp_gamma {c : OnePoint ℝ} {N : ℕ}
+    (hc : IsCusp c (Subgroup.map (Matrix.SpecialLinearGroup.mapGL ℝ) Γ(N))) :
+     ∃ A : Subgroup.map (Matrix.SpecialLinearGroup.mapGL ℝ) Γ(N),
+       A • OnePoint.infty = c := by
```
Comment (dwrensha) [inline SpherePacking/ForMathlib/Cusps.lean]: This theorem is the last missing piece for this PR.

Maybe someone who is more familiar with the math can comment on whether they expect this theorem to be true as stated, and what a proof might look like.

Comment (dwrensha) [reply SpherePacking/ForMathlib/Cusps.lean]: We need something like this theorem to deal with https://github.com/leanprover-community/mathlib4/pull/26651

**Comment by dwrensha** [comment]
Maybe @loefflerd, as author of https://github.com/leanprover-community/mathlib4/pull/26651, can comment on whether we should expect this theorem to be true, and if so, how we might prove it:

```lean
theorem bounded_at_cusps_of_bounded_at_infty
    {f : ℍ → ℂ}
    {c : OnePoint ℝ}
    {N : ℕ} {k : ℤ}
    (hc : IsCusp c (Subgroup.map (Matrix.SpecialLinearGroup.mapGL ℝ) Γ(N)))
    (hb : ∀ A : Subgroup.map (Matrix.SpecialLinearGroup.mapGL ℝ) Γ(N),
               UpperHalfPlane.IsBoundedAtImInfty (f ∣[k] (A : GL (Fin 2) ℝ))) :
    c.IsBoundedAt f k := by sorry
```

**Comment by dwrensha** [comment]
This is ready for review!

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 3]
```diff
@@ -78,7 +78,8 @@ theorem aux3 {ι τ : Type*} {s : Set ι} {f : ι → Set (EuclideanSpace ℝ τ
     have h_volume' := volume.mono hL
     rw [OuterMeasure.measureOf_eq_coe, Measure.coe_toOuterMeasure, Set.biUnion_eq_iUnion,
       measure_iUnion] at h_volume'
-    · have h_le := Summable.tsum_mono (f := fun _ ↦ c) (g := fun (x : s) ↦ volume (f x)) ?_ ?_ ?_
+    · have h_le := Summable.tsum_mono (L := SummationFilter.unconditional _)
```
Comment (loefflerd) [inline SpherePacking/Basic/PeriodicPacking.lean]: One of the design goals of the `SummationFilter` code was that users who are only interested in unconditional summation shouldn't notice the change. Looks like we didn't entirely succeed ☹️

File: SpherePacking/CohnElkies/LPBound.lean
Comment (loefflerd) [inline SpherePacking/CohnElkies/LPBound.lean:1]: You have a lot of `congr, ext, congr, congr, ext, ...` here. There are various tactics like `congrm` and `congr ... with ...` which are designed to shorten this (or there's always "conv")

File: SpherePacking/ForMathlib/Cusps.lean
Comment (loefflerd) [inline SpherePacking/ForMathlib/Cusps.lean:1]: Is it OK if I steal these two lemmas and upstream them to Mathlib? I have some related PR's in the works anyway.

File: SpherePacking/ModularForms/SlashActionAuxil.lean [hunk 4]
```diff
@@ -142,11 +142,28 @@ theorem slashaction_generators_SL2Z
   intro γ hγ
   rcases hγ with (rfl | rfl | rfl | _) <;> assumption
 
+theorem slashaction_generators_GL2R
+    (f : ℍ → ℂ) (k : ℤ) (hS : f ∣[k] S = f) (hT : f ∣[k] T = f) :
+    (∀ γ ∈ Subgroup.map (Matrix.SpecialLinearGroup.mapGL ℝ) (CongruenceSubgroup.Gamma 1),
```
Comment (loefflerd) [inline SpherePacking/ModularForms/SlashActionAuxil.lean:147]:
```suggestion
    (∀ γ ∈ 𝒮ℒ,
```

File: SpherePacking/ModularForms/SlashActionAuxil.lean [hunk 5]
```diff
@@ -142,11 +142,28 @@ theorem slashaction_generators_SL2Z
...
+  rw [←hA₂]
+  change f ∣[k] A = f
+  refine (slashaction_generators f ⊤ _ SL2Z_generate k).mpr ?_ ⟨A, by simp⟩
+  intro γ hγ
+  rcases hγ with (rfl | rfl | rfl | _) <;> assumption
+
 theorem slashaction_generators_Γ2
     (f : ℍ → ℂ) (k : ℤ) (hα : f ∣[k] α.1 = f) (hβ : f ∣[k] β.1 = f) (hnegI : f ∣[k] negI.1 = f) :
-    (∀ γ ∈ Γ 2, f ∣[k] γ = f) := by
+    (∀ γ ∈ Subgroup.map (SpecialLinearGroup.mapGL ℝ) (Γ 2), f ∣[k] γ = f) := by
```
Comment (loefflerd) [inline SpherePacking/ModularForms/SlashActionAuxil.lean:160]: Does `(∀ γ ∈ Γ 2, f ∣[k] γ = f)` really not work here? I would have thought it should.

File: SpherePacking/ModularForms/qExpansion_lems.lean [hunk 6]
```diff
@@ -138,54 +138,56 @@ lemma iteratedDeriv_eq_iteratedDerivWithin (n : ℕ) (f : ℂ → ℂ) (s : Set
 lemma qExpansion_mul_coeff (a b : ℤ) (f : ModularForm Γ(n) a) (g : ModularForm Γ(n) b) [NeZero n] :
```
Comment (loefflerd) [inline SpherePacking/ModularForms/qExpansion_lems.lean:138]: This we should definitely upstream to mathlib asap.

File: SpherePacking/ModularForms/qExpansion_lems.lean [hunk 7]
```diff
@@ -333,13 +335,13 @@ lemma qExpansion_add (f g : ModularForm Γ(1) k) : (qExpansion 1 (f + g)) =
 
 lemma IteratedDeriv_smul (a : ℂ) (f : ℂ → ℂ) (m : ℕ) :
```
Comment (loefflerd) [inline SpherePacking/ModularForms/qExpansion_lems.lean:336]: Mathlib has [iteratedDeriv_const_smul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.html#iteratedDeriv_const_smul)

File: SpherePacking/ModularForms/qExpansion_lems.lean [hunk 8]
```diff
@@ -436,10 +434,10 @@ lemma qExpansion_of_mul (a b : ℤ) (f : ModularForm Γ(1) a) (g : ModularForm 
 
 @[simp] --generalize this away from ℂ
 lemma IteratedDeriv_zero_fun (n : ℕ) (z : ℂ) : iteratedDeriv n (fun _ : ℂ => (0 : ℂ)) z = 0 := by
```
Comment (loefflerd) [inline SpherePacking/ModularForms/qExpansion_lems.lean:436]: I'm astounded that this is not in mathlib (although the `fderiv` version is)

File: SpherePacking/Basic/PeriodicPacking.lean (hunk 3 above)
Comment (b-mehta) [reply SpherePacking/Basic/PeriodicPacking.lean]: Might it work in this case to instead fix this by giving an explicit type to the `have` statement? My guess is that specifying L is necessary because `h_le` would be too general otherwise.

File: SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean [hunk 9]
```diff
@@ -84,7 +84,7 @@ lemma parametrisation_eq : ∀ t ∈ Ioo (0 : ℝ) 1,
       exact zero_ne_one ((h₁.symm).trans h₂)
   _ = _ := by
       conv_lhs => rw [div_mul_div_comm (-1) (t + I)]
-      simp only [neg_mul, one_mul, neg_sub, div_mul_eq_mul_div, div_add_div_same]
+      simp only [neg_mul, one_mul, neg_sub, div_mul_eq_mul_div, ←add_div]
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/a/IntegralEstimates/I2.lean]:
```suggestion
      simp only [neg_mul, one_mul, neg_sub, div_mul_eq_mul_div, ← add_div]
```
and similarly below

File: SpherePacking/CohnElkies/LPBound.lean
Comment (b-mehta) [reply SpherePacking/CohnElkies/LPBound.lean:1]: I agree, but I also think it's fine to leave this as-is for now, so that the diff of the "bump" PR is small

**Comment by b-mehta** [comment]
Thanks for the review, David!!

File: SpherePacking/CohnElkies/LPBound.lean
Comment (loefflerd) [reply SpherePacking/CohnElkies/LPBound.lean:1]: Sure, my comment was more an observation about the existing code rather than a review of the PR per se.

File: SpherePacking/ModularForms/qExpansion_lems.lean (hunk 6 above)
Comment (CBirkbeck) [reply SpherePacking/ModularForms/qExpansion_lems.lean:138]: Yeah, there is a load of things about q-expansions we need in this file that I've not had the chance to PR yet. Ill get on this soon!

File: SpherePacking/ModularForms/SlashActionAuxil.lean (hunk 5 above)
Comment (dwrensha) [reply SpherePacking/ModularForms/SlashActionAuxil.lean:160]: If I change this lemma to that type signature, then downstream I need to change

```diff
 noncomputable def H₂_SIF : SlashInvariantForm (Γ 2) 2 where
   toFun := H₂
-  slash_action_eq' := slashaction_generators_Γ2 H₂ (2 : ℤ) H₂_α_action H₂_β_action H₂_negI_action
+  slash_action_eq' γ := by
+    intro ⟨γ', hγ₁, hγ₂⟩
+    rw [← hγ₂]
+    exact slashaction_generators_Γ2 H₂ (2 : ℤ) H₂_α_action H₂_β_action H₂_negI_action γ' hγ₁
```

File: SpherePacking/ForMathlib/Cusps.lean
Comment (dwrensha) [reply SpherePacking/ForMathlib/Cusps.lean:1]: Fine by me. I generalized them one step more in 45b4af51d26fec077cdbe7a402cfe9276220ec88.

File: SpherePacking/Basic/PeriodicPacking.lean (hunk 3 above)
Comment (dwrensha) [reply SpherePacking/Basic/PeriodicPacking.lean]: Done in 96512406b51547f520a233f04f7b728a3e07e256

File: SpherePacking/ModularForms/SlashActionAuxil.lean (hunk 4 above)
Comment (dwrensha) [reply SpherePacking/ModularForms/SlashActionAuxil.lean:147]: If I make this change, then downstream I need to make the change.

```diff
 def Discriminant_SIF : SlashInvariantForm (CongruenceSubgroup.Gamma 1) 12 where
   toFun := Δ
   slash_action_eq' A := by
-    intro hA
-    exact slashaction_generators_GL2R Δ 12 Discriminant_S_invariant Discriminant_T_invariant A hA
+    intro ⟨A', hA₁, hA₂⟩
+    rw [← hA₂]
+    exact slashaction_generators_GL2R
+            Δ 12 Discriminant_S_invariant Discriminant_T_invariant A' ⟨A', rfl⟩
```

**Comment by dwrensha** [comment]
Note: `linter.style.induction` gets enabled in this version, so there are a bunch of new warnings about `induction'`. I figured they would be best handled in a follow-up PR.

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 10]
```diff
@@ -871,7 +872,7 @@ theorem volume_ball_ratio_tendsto_nhds_one'
   · convert ENNReal.Tendsto.div (volume_ball_ratio_tendsto_nhds_one hd hC') ?_
       (volume_ball_ratio_tendsto_nhds_one hd hC) ?_ <;> simp
 
-theorem Filter.map_add_atTop_eq {β : Type*} {f : ℝ → β} (C : ℝ) (α : Filter β) :
+theorem Filter.map_add_atTop_eq' {β : Type*} {f : ℝ → β} (C : ℝ) (α : Filter β) :
```
Comment (dwrensha) [inline SpherePacking/Basic/PeriodicPacking.lean:875]: A conflicting lemma was added to mathlib in https://github.com/leanprover-community/mathlib4/pull/29532.

File: SpherePacking/ModularForms/SlashActionAuxil.lean (hunk 5 above)
Comment (dwrensha) [reply SpherePacking/ModularForms/SlashActionAuxil.lean:160]: Similar changes are required at `H₃_SIF` and `H₄_SIF`.

**Comment by pitmonticone** [comment]
@dwrensha Thank you very much for this PR! 

Could you please entitle the PR as follows: 
> chore: bump to `v4.24.0`

or 
> chore: bump toolchain to `v4.24.0`

?

File: SpherePacking/Basic/E8.lean [hunk 11]
```diff
@@ -469,18 +469,6 @@ lemma dotProduct_is_integer {R : Type*} [Field R] [CharZero R] (i j : Fin 8) :
...
-    {s : Finset α} {v : α → β → γ} {w : β → γ} :
-    (∑ i ∈ s, v i) ⬝ᵥ w = ∑ i ∈ s, v i ⬝ᵥ w := by
-  simp_rw [dotProduct, Finset.sum_apply, Finset.sum_mul]
-  exact Finset.sum_comm
-
-lemma dotProduct_sum {α β γ : Type*} [Fintype β] [CommSemiring γ]
-    {s : Finset α} {v : β → γ} {w : α → β → γ} :
-    v ⬝ᵥ (∑ i ∈ s, w i) = ∑ i ∈ s, v ⬝ᵥ w i := by
-  simp_rw [dotProduct, Finset.sum_apply, Finset.mul_sum]
-  exact Finset.sum_comm
```
Comment (dwrensha) [inline SpherePacking/Basic/E8.lean:482]: These were added upstream ~in https://github.com/leanprover-community/mathlib4/pull/29532~

Comment (dwrensha) [reply SpherePacking/Basic/E8.lean:482]: Oops, I mean https://github.com/leanprover-community/mathlib4/pull/29862

**Review by thefundamentaltheor3m — APPROVED** [review]
